US08217027B2
tartrate salt (0.250 g) was free-based by partitioning between ether and saturated NaHCO3 solution, drying over MgSO4, filtering, and concentrating to give ((1R,3S)-1-amino-3-(4-octylphenyl)cyclopentyl)methanol (138 mg, 0.455 mmol) as a white powder that was used directly in the reaction. A 200 mL round-bottomed flask equipped with rubber septum and nitrogen inlet needle was charged with ((1R,3S)-1-amino-3-(4-octylphenyl)cyclopentyl)methanol (0.138 g, 0.455 mmol) and THF (10 mL) to give a colorless solution. 1.1 M LiHMDS solution in THF (0.459 mL, 0.500 mmol) was added dropwise via a syringe. The resulting solution was allowed to stir at room temperature for about 20 minutes. Tetrabenzyl diphosphate (0.269 g, 0.500 mmol) was added in one portion. The resulting solution was stirred at room temperature for 1 hour. 1.25 M HCl solution in ethanol (0.728 mL, 0.909 mmol) was added in one portion. The resulting solution was concentrated and the residue was dissolved in EtOH (10 mL) and the reaction flask was charged with Pearlman's Catalyst (0.016 g, 0.023 mmol). The resulting suspension was attached to a hydrogen balloon and stirred at room temperature for 14 hours. The reaction mixture was filtered through a pad of Celite®. The filtrate was concentrated and triturated with water to give a white precipitate that was collected by filtration and washed with DMSO (2×2 mL) followed by water (2×10 mL), and dried under vacuum to give phosphoric acid mono-[(1R,3S)-1-amino-3-(4-octyl-phenyl)-cyclopentylmethyl] ester as a white powder (0.147 g, 84

reactant | ((1R,3S)-1-amino-3-(4-octylphenyl)cyclopentyl)methanol | 0.455 mmol, 0.138 g | N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)CCCCCCCC)CO | C20H33NO
reactant | LiHMDS | 1.1 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Tetrabenzyl diphosphate | 0.500 mmol, 0.269 g | O(P(OCC1=CC=CC=C1)(=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H28O7P2
reactant | HCl | 1.25 M | Cl | ClH
reactant | ethanol | 0.909 mmol, 0.728 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Pearlman's Catalyst | 0.023 mmol, 0.016 g | [OH-].[OH-].[Pd+2]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.500 mmol, 0.459 mL | C1CCOC1 | C4H8O
product | phosphoric acid mono-[(1R,3S)-1-amino-3-(4-octyl-phenyl)-cyclopentylmethyl] ester | N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)CCCCCCCC)COP(O)(O)=O | C20H34NO4P
